US07884207B2
Under a nitrogen atmosphere, nitromethane (116 mL, 2.14 mol) and sodium ethoxide (2.6 g of 96% pure material, 36 mmol) were sequentially added to a solution of cyclobutanone (50.0 g, 713 mmol) in ethanol (71 mL), and the resulting solution was stirred at room temperature for 4 days. Some of the ethanol was removed under reduced pressure, and water (100 mL) was added. The resulting mixture was extracted with ethyl acetate (3×150 mL). The combined extracts were washed sequentially with water (2×80 mL) and brine (40 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by vacuum distillation under high vacuum at 70° C. to provide 46.1 g of 1-(nitromethyl)cyclobutanol as an orange liquid.

reactant | nitromethane | 2.14 mol, 116 mL | [N+](=O)([O-])C | CH3NO2
reactant | sodium ethoxide | 36 mmol, 2.6 g | [O-]CC.[Na+]
reactant | cyclobutanone | 713 mmol, 50.0 g | C1(CCC1)=O | C4H6O
solvent | ethanol | 71 mL | C(C)O | C2H6O
product | 1-(nitromethyl)cyclobutanol | 46.1 g | [N+](=O)([O-])CC1(CCC1)O | C5H9NO3
